US05273975
Dipropylamine (22.3 g, 0.22 mol) was added to a stirred solution of diethyl bromomalonate (47.8 g, 0.20 mol) in THF (400 mL) and the solution was stirred for 18 hours at room temperature. The precipitate of dipropylamine hydrobromide was filtered off and washed with THF. The THF phase was evaporated and the residual oil was partitioned between ethyl acetate (200 mL) and sodium hydroxide solution (10 mL of 4 N). The ethyl acetate phase was separated, washed with water (2×10 mL), and the solvent was removed under reduced pressure. The residual oil was dissolved in an equal volume of hexane and was applied to a silica gel column (420 g) which was eluted initially with ethyl acetate:hexane (1:20). The concentration of ethyl acetate in the eluant was increased slowly until all the diethyl (dipropylamino)malonate was eluted from the column. Fractions containing the compound as determined by TLC and GC were pooled and the solvent was removed to give diethyl (dipropylamino)malonate as an oil in 80-90% yield.

reactant | Dipropylamine | 0.22 mol, 22.3 g | C(CC)NCCC | C6H15N
reactant | diethyl bromomalonate | 0.20 mol, 47.8 g | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | diethyl (dipropylamino)malonate | 80-90% yield | C(CC)N(CCC)C(C(=O)OCC)C(=O)OCC | C13H25NO4
